US05102667
N,N'-Carbonyldiimidazole (1.3 g) is added to a solution of 2-(4-chlorophenyl)acetic acid (1.36 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 1 hour at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.62 g) and triethylamine (1.12 cc) in dichloromethane (20 cc) is then added. The reaction mixture is stirred for 2 hours at +5° C. and 16 hours at 20° C.; it is washed with distilled water (3×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from a mixture of acetonitrile (5 cc) and isopropyl ether (10 cc). The crystals obtained are drained and dried. The residue is recrystallized from acetonitrile (40 cc). The crystals obtained are drained, washed with isopropyl ether (10 cc) and dried. (3aRS,7aRS)-2-[(4-chlorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone (2.4 g) melting at 213° C. is obtained.

reactant | 2-(4-chlorophenyl)acetic acid | 1.36 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.62 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.12 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[(4-chlorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone | 2.4 g | ClC1=CC=C(C=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26ClNO2
